US04346023
Cyclopentadeca-2,6,10,14-tetraen-1-one
A 500 ml round bottom flask equipped with a magnetic stirrer, reflux condenser and gas inlet tube was charged with 4 g of potassium bicarbonate and 125 ml of aqueous 90% t-butanol. The stirred mixture was heated at vigorous reflux under a steady flow of argon, while a solution of 3.10 g (16 mMole) of dodeca-4,8-diene-1,12-dial and 4.40 g (16 mMole) of 1,3-bis(dimethylphosphoro)propan-2-one in 25 ml of 90% aqueous t-butanol was added at a constant rate over a period of 4 h. The reaction mixture was poured into water containing some sodium chloride, to avoid emulsions, extracted with ether, washed with brine, dried over sodium sulphate and evaporated. Distillation of the remaining oil gave 2.15 g (62%) of the desired tetraenone, b.p. 101°-105°/0.05 Torr. A sample was purified by chromatography on silica gel and showed m.p. 30°-37°;

reactant | potassium bicarbonate | 4 g | C([O-])(O)=O.[K+]
reactant | dodeca-4,8-diene-1,12-dial | 16 mMole, 3.10 g | C(CCC=CCCC=CCCC=O)=O | C12H18O2
reactant | water | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
reactant | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
product | Cyclopentadeca-2,6,10,14-tetraen-1-one | C1(C=CCCC=CCCC=CCCC=C1)=O | C15H20O
